US04221914
To an ice cold solution of 0.08 mole of sodium bicarbonate in 40 ml of water is added 0.02 mole of imidazol-5-ylmethanol hydrochloride followed by a solution of 0.025 mole of tosylchloride in 30 ml of ethyl acetate. The reaction mixture is stirred at room temperature for 5 hours. The organic phase is separated, washed with sodium bicarbonate, and dried over magnesium sulfate and concentrated under reduced pressure. The residue is crystallized from ethyl acetate to afford 1-tosylimidazol-5-ylmethanol.

reactant | sodium bicarbonate | 0.08 mole | C([O-])(O)=O.[Na+]
reactant | imidazol-5-ylmethanol hydrochloride | 0.02 mole | Cl.N1C=NC=C1CO
reactant | tosylchloride | 0.025 mole | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | water | 40 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-tosylimidazol-5-ylmethanol | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC=C1CO | C11H12N2O3S
